US04171303
6-(α-Carboxy-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid
56 ml. (0.4 moles) or triethylamine are added to a suspension of 42 g. (10.2 moles) of 6-APA in 600 ml. of methylene chloride. The obtained solution is cooled to 0° C., and 136 g. (0.2 moles) of phenylmalonic acid di-pentachlorophenylester are added to the solution at such a rate that the temperature should not rise above +5° C. Thereafter 28 ml. (0.2 moles) of triethylamine are added to the mixture, upon which the phenylmalonic acid di-pentachlorophenylester immediately dissolves. The mixture is stirred for 30 minutes, then 200 ml. of a 8% aqueous sodium hydrocarbonate solution is added. The pH of the mixture is adjusted to 7, and the methylenechloride phase is separated. The aqueous phase is covered with 200 ml. of ethyl acetate, and is acidified to pH=2 with 10% aqueous phosphoric acid.

reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 6-APA | 10.2 moles | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)N)C(=O)O)C | C8H12N2O3S
reactant | triethylamine | 0.2 moles | C(C)N(CC)CC | C6H15N
reactant | sodium hydrocarbonate | C(=O)(O)[O-].[Na+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 6-(α-Carboxy-phenylacetamido)-2,2-dimethyl-penam-3-carboxylic acid | C(=O)(O)C(C(=O)NC1[C@@H]2N(C(C(S2)(C)C)C(=O)O)C1=O)C1=CC=CC=C1 | C17H18N2O6S
